US04122202
A mixture of 30 g of 6,7-dimethoxy 3H-isobenzofuranone, prepared according to the method described in Example IV, 1 liter of ethanol and 300-400 cm3 of dimethylamine was agitated for several hours and then evaporated under vacuum at 30° - 35° C. The crystallized product was washed with heptane. The 2,3-dimethoxy N,N-dimethyl 6-hydroxymethyl benzamide was obtained in a yield of 100%. F = 90° C.

reactant | 6,7-dimethoxy 3H-isobenzofuranone | 30 g | COC1=CC=C2COC(C2=C1OC)=O | C10H10O4
reactant | dimethylamine | 300-400 cm3 | CNC | C2H7N
solvent | ethanol | 1 liter | C(C)O | C2H6O
product | 2,3-dimethoxy N,N-dimethyl 6-hydroxymethyl benzamide | yield of 100% | COC1=C(C(=O)N(C)C)C(=CC=C1OC)CO | C12H17NO4
